US07317033B2
a) N-(2-Amino-3,4,5,6-tetrafluorophenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the reaction described in example 1 b) from 4-methyl-3-thienyl isothiocyanate and 3,4,5,6-tetrafluoro-1,2-diaminobenzene. Crystalline solid, m.p.: 286-290° C.

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | 3,4,5,6-tetrafluoro-1,2-diaminobenzene | FC=1C(=C(C(=C(C1F)F)F)N)N | C6H4F4N2
product | N-(2-Amino-3,4,5,6-tetrafluorophenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C(=C(C(=C1F)F)F)F)NC(=S)NC1=CSC=C1C | C12H9F4N3S2
